US04421739
3-(4-octyloxymethylbenzylidene)-camphor
A suspension of 2.1 g (50 millimols) of sodium hydride (in oil) is added in small amounts to 6.5 g (50 millimols) of octan-1-ol in 100 ml of toluene, whilst stirring. When the evolution of hydrogen has ended, 16.6 g (50 millimols) of 3-(p-bromomethylbenzylidene)-camphor are added in portions, and the mixture is then heated under reflux for 3 hours. After adding water, the toluene phase is decanted, dried and concentrated to dryness. The residual syrup is distilled under reduced pressure. 8.8 g of a yellow liquid, which boils at 240° under a pressure of 0.1 mm Hg, are thus collected.

reactant | sodium hydride | 50 millimols, 2.1 g | [H-].[Na+]
reactant | octan-1-ol | 50 millimols, 6.5 g | C(CCCCCCC)O | C8H18O
reactant | hydrogen | [H][H] | H2
reactant | 3-(p-bromomethylbenzylidene)-camphor | 50 millimols, 16.6 g | BrCC1=CC=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=C1 | C18H21BrO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(4-octyloxymethylbenzylidene)-camphor | C(CCCCCCC)OCC1=CC=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=C1 | C26H38O2
